US08981084B2
Dimethylaminopyridine (0.151 g, 1.24 mmol), EDCl (0.142 g, 0.744 mmol), and HOBt (0.095 g, 0.620 mmol) were added to a solution of 2-(azetidin-3-ylmethyl)-4-(4-fluorophenyl)thiazole (0.170 g, 0.682 mmol) in DMF (10.0 mL), followed by 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid (0.160 g, 0.62 mmol). The reaction was stirred at room temperature for 2 h and concentrated under reduced pressure. The residue was diluted with EtOAc, washed with water and brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure to yield the crude product which was purified by preparative thin layer chromatography using (40% EtOAc/Hexane) to provide (3-((4-(4-fluorophenyl)thiazol-2-yl)methyl)azetidin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone (0.140 g, 42.04%) 1H NMR (400 MHz, DMSO) δ 8.21 (s, 1H), 8.15-8.17 (d, 1H), 7.94-7.95 (d, 1H), 7.90-7.92 (m, 2H), 7.86-7.88 (d, 1H), 7.66-7.78 (t, 1H), 7.19-7.23 (t, 2H), 4.48-4.52 (t, 1H), 4.17-4.25 (m, 2H), 3.91-3.95 (m, 1H), 3.42-3.43 (m, 2H), 3.10-3.17 (m, 1H). MS (ESI) m/z: Calculated for C23H16F4N4O2S: 488.09. found: 489.0 (M+H)+

reactant | Dimethylaminopyridine | 1.24 mmol, 0.151 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | EDCl | 0.744 mmol, 0.142 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.620 mmol, 0.095 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-(azetidin-3-ylmethyl)-4-(4-fluorophenyl)thiazole | 0.682 mmol, 0.170 g | N1CC(C1)CC=1SC=C(N1)C1=CC=C(C=C1)F | C13H13FN2S
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | 0.62 mmol, 0.160 g | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | (3-((4-(4-fluorophenyl)thiazol-2-yl)methyl)azetidin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone | 0.140 g, 42.04% | FC1=CC=C(C=C1)C=1N=C(SC1)CC1CN(C1)C(=O)C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F | C23H16F4N4O2S
